* AD623 SPICE Macromodel
* Description: Amplifier
* Generic Desc: 12V Bipolar  Inamp single supply G1-1000
* Developed by: JCH / ADI, TRW / ADI
* Revision History: 08/10/2012 - Updated to new header style
* 2.0 (09/2000)
* Copyright 1999, 2012 by Analog Devices
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model 
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*    
* Parameters modeled include:
*
* END Notes
*
* Node assignments
* 
*                non-inverting input
*                |   inverting input
*                |   |  +Rg
*                |   |   |  -Rg
*                |   |   |   |   positive supply
*                |   |   |   |   |  negative supply
*                |   |   |   |   |  |  output
*                |   |   |   |   |  |  |   reference
*                |   |   |   |   |  |  |   |
.SUBCKT AD623    IN+ IN- Rg+ Rg- 99 50 OUT REF
QIN1    50 IN+ A3 QPI1
QIN2    50 IN- A4 QPI2
IBIAS1  99   A3  2u
IBIAS2  99   A4  2u
R1     Rg+ 103 50k
R2     Rg- 104 50k
CMR    Rg+  99 0.5p
R3     104 202 50k
R4     103 201 50k
*Output stage common-mode error
R5     201 REF 50.004k
R6     202 OUT 49.996k
*X1     201 202 99 50 OUT Inamp_output
*X2       A3 Rg+ 99 50 103 Inamp_input
*X3       A4 Rg- 99 50 104 Inamp_input
*Quiescent current correction
Icor 99 50 1.25e-4
* INPUT STAGE
*
Q1B   B4  B3  B5  QPI
Q2B   B6  202  b7  QPI
RC1B    50  B4  8.5k
RC2B    50  B6  8.5k
RE1B     B5  B8  3.3k
RE2B     B7  B8  3.3k 
ENOISB   201  B3  B53 98 1 
D1B      B3 99  DX
D2B     50  B3  DX
IBIASB  99  B8  10u
*
* INTERNAL VOLTAGE REFERENCE
*
EREF1 98 97  99 0 0.5
EREF2 97  0  50 0 0.5
*
* VOLTAGE NOISE STAGE
*
DN1B   B51 B52 DNOI1
VN1B   B51 98 0.64
VMEASB B52 98 0
RNOI1B B52 98 1

F1B    B53 98 VMEASB 1
RNOI2B B53 98 1
*
* INTERMEDIATE GAIN STAGE WITH POLE = 578kHz
*
G1B   98 B20 B4 B6 1E-3 
RP1B  98 B20 550
CP1B  98 B20 500p
*
* INTERMEDIATE GAIN STAGE WITH POLE = 900kHz
*
G2B   98 B21 B4 B6 1E-3 
RP2B  98 B21 500
CP2B  98 B21 354p
*
* GAIN STAGE WITH DOMINANT POLE
*
G4B    98 B30 B21 98 3.65E-3
RG1B   B30 98 25k
CF1B   B30 OUT 0.275n
D5B B31 99 DX
D6B 50 B32 DX
V1B B31 B30 0.6
V2B B30 B32 0.6
*
* OUTPUT STAGE
*
Q3B     OUT B42 B43 QPOX
Q4B     OUT B44 B46 QNOX
RO3B    99 B43 30
RO4B    B46 50 30
VBI01B  99 B41 0.5965
VBIO2B  B47 50 0.5965
EO3B    B41 B42 98 B30 10
EO4B    B44 B47 B30 98 10
*

* INPUT STAGE
*
Q1C   C4  C5  C8 QPI
Q2C   C6  RG+  C8 QPI
RC1C    50  C4 8.5k
RC2C    50  C6 8.5k
ENOIC    A3  C5 C53 98 1 

D1C      C3 99 DX
D2C     50  C3 DX
IBIASC  99  C8 10u
*
*
* VOLTAGE NOISE STAGE
*
DN1C    C51 C52 DNOI1
VN1C    C51 98 0.64
VMEASC  C52 98 0
RNOI1C  C52 98 1e-4

F1C     C53 98 VMEASC 1
RNOI2C  C53 98 1
*
* INTERMEDIATE GAIN STAGE 
*
G1C   98 C20 C4 C6 1E-3 
RP1C  98 C20 4.67k
*
* GAIN STAGE WITH DOMINANT POLE
*
G4C   98 C30 C20 98 2E-3
RG1C  C30 98 125k
CF1C  C30 103 2.5n
D5C   C31 99 DX
D6C   50 C32 DX
V1C   C31 C30 0.6
V2C   C30 C32 0.6
*
* OUTPUT STAGE
*
Q3C     103 C42 C43 QPOX
Q4C     103 C44 C46 QNOX
RO3C    99 C43 30
RO4C    C46 50 30
VBI01C  99 C41 0.5965
VBIO2C  C47 50 0.5965
EO3C    C41 C42 98 C30 5
EO4C    C44 C47 C30 98 5
*
* INPUT STAGE
*
Q1D   D4  D5  D8 QPI
Q2D   D6  RG-  D8 QPI
RC1D    50  D4 8.5k
RC2D    50  D6 8.5k
ENOID    A4  D5 D53 98 1 

D1D      D3 99 DX
D2D     50  D3 DX
IBIASD  99  D8 10u
*
*
* VOLTAGE NOISE STAGE
*
DN1D    D51 D52 DNOI1
VN1D    D51 98 0.64
VMEASD  D52 98 0
RNOI1D  D52 98 1e-4

F1D     D53 98 VMEASD 1
RNOI2D  D53 98 1
*
* INTERMEDIATE GAIN STAGE 
*
G1D   98 D20 D4 D6 1E-3 
RP1D  98 D20 4.67k
*
* GAIN STAGE WITH DOMINANT POLE
*
G4D   98 D30 D20 98 2E-3
RG1D  D30 98 125k
CF1D  D30 104 2.5n
D5D   D31 99 DX
D6D   50 D32 DX
V1D   D31 D30 0.6
V2D   D30 D32 0.6
*
* OUTPUT STAGE
*
Q3D     104 D42 D43 QPOX
Q4D     104 D44 D46 QNOX
RO3D    99 D43 30
RO4D    D46 50 30
VBI01D  99 D41 0.5965
VBIO2D  D47 50 0.5965
EO3D    D41 D42 98 D30 5
EO4D    D44 D47 D30 98 5
*
.MODEL QPI PNP(VAF=100)
.MODEL QNOX NPN(IS=6E-15,VAF=120,RC=50)
.MODEL QPOX PNP(IS=6E-15,BF=112,VAF=120,RC=50)
.MODEL DX D(IS=1E-16)
.MODEL DNOI1 D(AF=1.5, KF=6E-10)
.MODEL DNOI2 D(KF=1E-8)
.MODEL QPI1 PNP(VAF=100)
.MODEL QPI2 PNP(VAF=99.3)
.ENDS AD623






